US08420640B2
To a stirred solution of (4-(4-methoxy-3-nitrophenyl)piperazin-1-yl) (phenyl)methanone (3.41 g, 10 mmol) and 2M CuSO4 (0.160 g, 1 mmol) in methanol (50 mL), NaBH4 (1.89 g, 50 mmol) was added in portions at room temperature. After stirring it for 30 min, it was filtered through celite, filtrate was evaporated under vacuum. Flash column chromatography afforded (4-(3-amino-4-methoxyphenyl)piperazin-1-yl) (phenyl)methanone (2.7 g,) 87% yield. 1H NMR (500 MHz, CDCl3): δ 3.0 (bs, 2H), 3.15 (bs, 2H), 3.59 (bs, 2H), 3.84 (s, 5H), 3.98 (bs, 2H), 6.34 (dd, J=2.8 Hz, 1H), 6.43 (d, J=2.7 Hz, 1H), 6.75 (d, J=8.6 Hz, 1H), 7.45 (m, 5H). 13C NMR (500 MHz, CDCl3): δ 42.4, 48.0, 56.3, 51.2, 51.5, 56.1, 105.9, 107.1, 111.3, 127.3, 128.7, 129.9, 135.9, 136.9, 142.6, 146.0, 170.5.

reactant | (4-(4-methoxy-3-nitrophenyl)piperazin-1-yl) (phenyl)methanone | 10 mmol, 3.41 g | COC1=C(C=C(C=C1)N1CCN(CC1)C(=O)C1=CC=CC=C1)[N+](=O)[O-] | C18H19N3O4
reactant | NaBH4 | 50 mmol, 1.89 g | [BH4-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
catalyst | CuSO4 | 1 mmol, 2M, 0.160 g | [O-]S(=O)(=O)[O-].[Cu+2]
product | (4-(3-amino-4-methoxyphenyl)piperazin-1-yl) (phenyl)methanone | 2.7 g, 87% yield | NC=1C=C(C=CC1OC)N1CCN(CC1)C(=O)C1=CC=CC=C1 | C18H21N3O2
